US08664234B2
To a solution of 1,5-anhydro-3-(6-bromo-4-oxo-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl)-2-O-[tert-butyl(dimethyl)silyl]-3,4-dideoxy-L-threo-pentitol (0.89 g, 1.8 mmol) in THF (17.5 mL) was added hydrochloric acid (1 N, 10 mL). Additional concentrated hydrochloric acid (2 mL) was added. After stirring overnight, the solution was basified by addition of saturated, aqueous NaHCO3, then extracted 2× with EtOAc. The organics were washed with brine, dried over MgSO4, filtered, concentrated, and dried to provide 1,5-anhydro-3-(6-bromo-1-methyl-4-oxo-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl)-2,3-dideoxy-L-threo-pentitol that gave a mass ion (ES+) of 392.9 for [M+H]+.

reactant | 1,5-anhydro-3-(6-bromo-4-oxo-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl)-2-O-[tert-butyl(dimethyl)silyl]-3,4-dideoxy-L-threo-pentitol | 1.8 mmol, 0.89 g | BrC=1C=C2C(N(CNC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O[Si](C)(C)C(C)(C)C)=O | C23H31BrN2O3Si
reactant | hydrochloric acid | 1 N, 10 mL | Cl | ClH
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 17.5 mL | C1CCOC1 | C4H8O
product | 1,5-anhydro-3-(6-bromo-1-methyl-4-oxo-1,4-dihydrobenzo[h]quinazolin-3(2H)-yl)-2,3-dideoxy-L-threo-pentitol | BrC=1C=C2C(N(CN(C2=C2C1C=CC=C2)C)[C@H]2CCOC[C@@H]2O)=O | C18H19BrN2O3
